US08957068B2
A solution of (S)-4-isopropyl-3-(2-((S)-1-(piperidin-4-yl)ethylamino)pyrimidin-4-yl)oxazolidin-2-one (225 mg, 0.675 mmol), 4-fluorobenzene-1-sulfonyl chloride (146 mg, 0.750 mmol) and DIPEA (1 ml) in CH2Cl2 was stirred at room temperature for 2 h. The reaction mixture was diluted with CH2Cl2 and washed with water. Aqueous layer was extracted with CH2Cl2. Combined organics were washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography to give (S)-3-(2-((S)-1-(1-(4-fluorophenylsulfonyl)piperidin-4-yl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one (4.5 mg, 0.009 mmol).

reactant | (S)-4-isopropyl-3-(2-((S)-1-(piperidin-4-yl)ethylamino)pyrimidin-4-yl)oxazolidin-2-one | 0.675 mmol, 225 mg | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)N[C@@H](C)C1CCNCC1 | C17H27N5O2
reactant | 4-fluorobenzene-1-sulfonyl chloride | 0.750 mmol, 146 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | DIPEA | 1 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-3-(2-((S)-1-(1-(4-fluorophenylsulfonyl)piperidin-4-yl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 0.009 mmol, 4.5 mg | FC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)[C@H](C)NC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C23H30FN5O4S
